US05068371
Ethyl 3-(2,4-difluorophenyl)-2-propenoate
51.6 g (0.40 mol) or 2,4-difluoroaniline are dissolved in 240 ml of glacial acetic acid. 45 ml (0.80 mol) of concentrated sulfuric acid are added slowly with cooling. The white suspension is diazotized at 12°-15° C. using a solution of 28.0 g (0.406 mol) of sodium nitrite in 70 ml of water. 1.2 g (0.0044 mol) of palladium bis(1,5-diphenyl-1,4-pentadien-3-one) (lit.: M. F. Rettig et al., Inorg. Synth. 17 (1977), 134) are added to the resultant yellow solution at 45° C. 40.5 g (0.405 mol) of ethyl acrylate are then added dropwise. The reaction is slightly exothermic, and the temperature slowly rises to about 60° C. The reaction mixture is stirred overnight with falling temperature and then poured into about 600 ml of ice-water. The waxy precipitate is extracted with 500 ml of diethyl ether. The ether phase is separated off, washed several times with ice-water and then dried using sodium sulfate. The ether is removed by distillation on a vacuum rotary evaporator. 51.2 g (60% of theory) of a waxy crystalline product which, after recrystallization from petroleum ether, melts at 40°-40.5° C. are obtained.

reactant | 2,4-difluoroaniline | FC1=C(N)C=CC(=C1)F | C6H5F2N
reactant | sulfuric acid | 0.80 mol, 45 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium nitrite | 0.406 mol, 28.0 g | N(=O)[O-].[Na+]
reactant | ethyl acrylate | 0.405 mol, 40.5 g | C(C=C)(=O)OCC | C5H8O2
solvent | acetic acid | 240 ml | C(C)(=O)O | C2H4O2
solvent | water | 70 ml | O | H2O
catalyst | palladium bis(1,5-diphenyl-1,4-pentadien-3-one) | 0.0044 mol, 1.2 g | C1(=CC=CC=C1)C=CC(C=CC1=CC=CC=C1)=O.C1(=CC=CC=C1)C=CC(C=CC1=CC=CC=C1)=O.[Pd]
product | Ethyl 3-(2,4-difluorophenyl)-2-propenoate | FC1=C(C=CC(=C1)F)C=CC(=O)OCC | C11H10F2O2
